* C:\Users\Avinash\Documents\LTspiceXVII\Draft23.asc
V1 N001 0 3.3
XX1 d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 out N002 0 level9
R1 N001 N002 5k
V2 d0 0 1.8
V3 d1 0 0
V4 d2 0 0
V5 d3 0 0
V6 d4 0 0
V7 d5 0 0
V8 d6 0 0
V9 d7 0 0
V10 d8 0 0
V11 d9 0 0

* block symbol definitions
.subckt level9 d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 out_10 res_in10 res_out10
XX1 d0 d1 d2 d3 d4 d5 d6 d7 d8 res_in10 N002 N001 level8
XX2 d0 d1 d2 d3 d4 d5 d6 d7 d8 N003 res_out10 N004 level8
XX3 d9 N001 N004 out_10 switch
R1 N002 N003 5k
.ends level9

.subckt level8 d0 d1 d2 d3 d4 d5 d6 d7 d8 res_in9 res_out9 out_9
XX1 d0 d1 d2 d3 d4 d5 d6 d7 N002 N001 res_in9 level7
XX2 d0 d1 d2 d3 d4 d5 d6 d7 res_out9 N004 N003 level7
XX3 d8 N001 N004 out_9 switch
R1 N002 N003 5k
.ends level8

.subckt switch dig_in in_1 in_2 Vout
M1 in_1 dig_in Vout Vout CMOSN
M2 Vout N002 in_2 in_2 CMOSN
M4 N002 dig_in 0 0 CMOSN
M5 N002 dig_in N001 N001 CMOSP
M6 in_2 dig_in Vout Vout CMOSP
M3 Vout N002 in_1 in_1 CMOSP
V1 N001 0 3.3
.inc PMOS-180nm.lib
.inc NMOS-180nm.lib
.ends switch

.subckt level7 d0 d1 d2 d3 d4 d5 d6 d7 res_out8 out_8 res_in8
XX1 d0 d1 d2 d3 d4 d5 d6 res_in8 N002 N001 level6
XX2 d0 d1 d2 d3 d4 d5 d6 N003 res_out8 N004 level6
XX3 d7 N001 N004 out_8 switch
R1 N002 N003 5k
.ends level7

.subckt level6 d0 d1 d2 d3 d4 d5 d6 res_in7 res_out7 out_7
XX1 d0 d1 d2 d3 d4 d5 res_in7 N002 N001 level5
XX2 d0 d1 d2 d3 d4 d5 N003 res_out7 N004 level5
R1 N002 N003 5k
XX3 d6 N001 N004 out_7 switch
.ends level6

.subckt level5 d0 d1 d2 d3 d4 d5 res_in6 res_out6 out_6
XX1 d0 d1 d2 d3 d4 res_in6 N002 N001 level4
XX2 d0 d1 d2 d3 d4 N003 res_out6 N004 level4
XX3 d5 N001 N004 out_6 switch
R1 N002 N003 5k
.ends level5

.subckt level4 d0 d1 d2 d3 d4 str_in str_out out_5
XX1 d0 d1 d2 d3 str_in P001 N001 level3
XX2 d0 d1 d2 d3 N002 str_out N003 level3
XX3 d4 N001 N003 out_5 switch
R1 P001 N002 5k
.ends level4

.subckt level3 d0 d1 d2 d3 res_in res_out output
XX1 d0 d1 d2 res_in N002 N001 level2
XX2 d0 d1 d2 N003 res_out N004 level2
XX3 d3 N001 N004 output switch
R1 N002 N003 5k
.ends level3

.subckt level2 d0 d1 d2 in_res out_res out
XX1 in_res N002 N001 d0 d1 level1
XX2 N003 out_res N004 d0 d1 level1
XX3 d2 N001 N004 out switch
R1 N002 N003 5k
.ends level2

.subckt level1 in_pin out_pin out_v d0 d1
XX1 d0 in_pin N002 N001 switch
XX2 d0 N003 N005 N004 switch
XX3 d1 N001 N004 out_v switch
R1 in_pin N002 10k
R2 N005 out_pin 5k
R3 N002 N003 10k
R4 N003 N005 10k
.ends level1

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Avinash\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100ms
* Control Statements 
.control
run
plot v(vout)
.endc
.backanno
.end
